US04115385
6-(2-[2-(Carboxymethyl)phenyl]acetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam
An ice-bath cooled, stirred mixture of 1.94 g (10 mmol) of o-phenylenediacetic acid, and 60 ml. of water is adjusted to pH 5.5 by the careful addition of 6N sodium hydroxide. The resulting solution is treated with 1.92 g (10 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride and stirring is continued for 30 minutes, with the pH being maintained at 5.5 by the addition of 6.0N hydrochloric acid. A solution consistng of 2.4 g. (10 mmol) of 6-amino-2,2-dimethyl-3-(5-tetrazolyl)penam and 30 ml. of water (adjusted to pH 7) is added to the first mentioned solution and stirring and cooling is continued for an hour. The aqueous solution is washed three times with 30 ml. portions of ethyl acetate, and is then adjusted to pH 2.5 with 6N hydrochloric acid. This solution is extracted twice with 40 ml. portions of ethyl acetate, and the combined extracts are washed with 50 ml. of water. After being dried over anhydrous sodium sulfate, the extract is evaporated under reduced pressure to furnish a colorless foam: yield 3 g. The foam is dissolved in 50 ml. of ethyl acetate and then it is treated with 2.4 g. (14.5 mmol) of sodium 2-ethylhexanoate in 30 ml. of ethyl acetate. The title compound precipitates as the sodium salt: yield 3.4 g (74%) IR (KBr) 1770, 1667, and 1587 cm-1NMR (D2O): 7.25 ppm (s, 4H), 5.70 (d, 1H), 5.40 (d, 1H), 5.25 (s, 1H), 3.70 (s, 2H), 3.60 (s, 2H), 1.50 (s, 3H), 1.00 (s, 3H).

reactant | o-phenylenediacetic acid | 10 mmol, 1.94 g | C1(=C(C=CC=C1)CC(=O)O)CC(=O)O | C10H10O4
reactant | sodium hydroxide | 6N | [OH-].[Na+]
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 10 mmol, 1.92 g | Cl.CN(CCCN=C=NCC)C
reactant | hydrochloric acid | 6.0N | Cl | ClH
reactant | 6-amino-2,2-dimethyl-3-(5-tetrazolyl)penam | 10 mmol | NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2)C1=O | C8H12N6OS
reactant | sodium 2-ethylhexanoate | 14.5 mmol | C(C)C(C(=O)[O-])CCCC.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | pH 7 | O | H2O
product | 6-(2-[2-(Carboxymethyl)phenyl]acetamido)-2,2-dimethyl-3-(5-tetrazolyl)penam | C(=O)(O)CC1=C(C=CC=C1)CC(=O)NC1[C@@H]2N(C(C(S2)(C)C)C2=NN=NN2)C1=O | C18H20N6O4S
